US05476860
2-Hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propyloxy]benzoic acid
1 g (2.6 mmol) of 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoic acid and 50 ml of THF are introduced into a three-necked flask under a stream of nitrogen. 5.3 ml (8.3 mmol) of a solution of methyl lithium in THF (1.6M) are added dropwise at -78° C. and the reaction mixture is stirred for 12 hours at room temperature. It is poured into ice-water, acidified to pH=1 and extracted with ethyl ether, and the organic phase is separated, dried over magnesium sulphate and evaporated. The residue obtained is recrystalised in cyclohexane and 900 mg (86%) of the expected product of melting point 170°-171° C. are collected.

reactant | 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoic acid | 2.6 mmol, 1 g | OC1=C(C(=O)O)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C23H26O5
reactant | methyl lithium | C[Li]
solvent | THF | 1.6M | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propyloxy]benzoic acid | OC1=C(C(=O)O)C=CC(=C1)OCC(C)(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C24H30O5
